US04061761
b. 3'-Diethylsulfamoyl-2,4'-dichloroacetophenone
12 g of 4'-chloro-3'-diethylsulfamoyl-diazoacetophenone were reacted as prescribed in Example 66b) with concentrated HCl in diethyleneglycol dimethyl ether and worked up. Colorless crystals, melting point: 63° - 65° C.

reactant | 4'-chloro-3'-diethylsulfamoyl-diazoacetophenone | 12 g | ClC1=C(C=C(C=C1)C(C=[N+]=[N-])=O)S(N(CC)CC)(=O)=O | C12H14ClN3O3S
reactant | HCl | Cl | ClH
solvent | diethyleneglycol dimethyl ether | COCCOCCOC | C6H14O3
product | 3'-Diethylsulfamoyl-2,4'-dichloroacetophenone | C(C)N(S(=O)(=O)C=1C=C(C=CC1Cl)C(CCl)=O)CC | C12H15Cl2NO3S
